US09359367B2
Synthesis of (R)-2′-(3-(4-(4-fluorophenyl)piperazin-1-yl)cyclopent-1-en-1-yl)-7′,8′-dihydro-3′H-spiro[cyclopropane-1,6′-quinazolin]-4′(5′H)-one hydrochloride salt (Compound 42 hydrochloride salt)
To a stirred solution of 2′-(3-(4-(4-fluorophenyl)piperazin-1-yl)cyclopent-1-en-1-yl)-7′,8′-dihydro-3′H-spiro[cyclopropane-1,6′-quinazolin]-4′(5′H)-one (550 mg, 1.308 mmol) in dichloromethane (15 ml), and methanol (15 ml) was added hydrochloric acid (2.62 ml, 5.23 mmol, 2M solution in ether) was added at 5-10° C. Reaction mix was stirred at 25° C. for 40-45 mins. Reaction mixture was concentrated under reduced pressure to obtain sticky solid, which was washed with ether (2×10 ml) to afford title compound (0.590 gm).

reactant | 2′-(3-(4-(4-fluorophenyl)piperazin-1-yl)cyclopent-1-en-1-yl)-7′,8′-dihydro-3′H-spiro[cyclopropane-1,6′-quinazolin]-4′(5′H)-one | 1.308 mmol, 550 mg | FC1=CC=C(C=C1)N1CCN(CC1)C1C=C(CC1)C1=NC=2CCC3(CC2C(N1)=O)CC3 | C25H29FN4O
reactant | methanol | 15 ml | CO | CH4O
reactant | hydrochloric acid | 5.23 mmol, 2M, 2.62 ml | Cl | ClH
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (R)-2′-(3-(4-(4-fluorophenyl)piperazin-1-yl)cyclopent-1-en-1-yl)-7′,8′-dihydro-3′H-spiro[cyclopropane-1,6′-quinazolin]-4′(5′H)-one hydrochloride salt | 0.590 gm | Cl.FC1=CC=C(C=C1)N1CCN(CC1)[C@H]1C=C(CC1)C1=NC=2CCC3(CC2C(N1)=O)CC3 | InChI=1S/C25H29FN4O.ClH/c26-18-2-5-19(6-3-18)29-11-13-30(14-12-29)20-4-1-17(15-20)23-27-22-7-8-25(9-10-25)16-21(22)24(31)28-23;/h2-3,5-6,15,20H,1,4,7-14,16H2,(H,27,28,31);1H/t20-;/m1./s1
